US07132436B2
N-[4-(2-{[(2,6-Dichlorophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)phenyl]acetamide
The title compound was prepared from N-[4-(2-amino-1,3-thiazol-4-yl)phenyl]acetamide (63 mg) and 2,6-dichlorobenzenesulfonyl chloride (66 mg) as described in the synthetic METHOD B to give a white solid (5.6 mg) with purity >80%: MS (pos) m/z 442.2, 444.4.

reactant | N-[4-(2-amino-1,3-thiazol-4-yl)phenyl]acetamide | 63 mg | NC=1SC=C(N1)C1=CC=C(C=C1)NC(C)=O | C11H11N3OS
reactant | 2,6-dichlorobenzenesulfonyl chloride | 66 mg | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | N-[4-(2-{[(2,6-Dichlorophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)phenyl]acetamide | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)NC=1SC=C(N1)C1=CC=C(C=C1)NC(C)=O | C17H13Cl2N3O3S2
